US08729074B2
N-(2-Chloro-5-(6-(pyridin-4-yl)imidazo[1,2-a]pyridin-3-yl)pyridin-3-yl)dimethylaminosulfonamide
N-(5-(6-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide. To a 5 mL microwave tube was added N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)dimethylaminosulfonamide (0.200 g, 0.553 mmol), 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.214 g, 0.664 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II) (0.020 g, 0.028 mmol), sodium carbonate (0.691 mL, 1.383 mmol), and dioxane (3 mL). The resulting mixture was sealed and underwent microwave heating at 110° C. for 15 min. The solvent was removed. The residue was partitioned between pH 7 buffer (1M TRIS-HCL) and DCM. The aqueous layer was extracted more with DCM (2×10 mL). The combined organic layers were dried over MgSO4 and concentrated. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, 12 g SiO2, hexanes:acetone=80%:20%, Flow=30 mL/min). The solvent was removed in vacuo to afford the desired product as brown solid (180 mg). MS (ESI pos. ion) m/z: 429.7. Calcd exact mass for C14H13BrClN5O2S: 428.9. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.94 (s, 6H) 7.36 (d, J=9.65 Hz, 1H) 7.63 (d, J=9.50 Hz, 1H) 7.79 (s, 1H) 8.09 (s, 1H) 8.34 (s, 1H) 8.42 (s, 1H).

reactant | N-(5-(6-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide | BrC=1C=CC=2N(C1)C(=CN2)C=2C=C(C(=NC2)Cl)NS(=O)(=O)N(C)C | C14H13BrClN5O2S
reactant | N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)dimethylaminosulfonamide | 0.553 mmol, 0.200 g | ClC1=NC=C(C=C1NS(=O)(=O)N(C)C)B1OC(C(O1)(C)C)(C)C | C13H21BClN3O4S
reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 0.664 mmol, 0.214 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | sodium carbonate | 1.383 mmol, 0.691 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(2-Chloro-5-(6-(pyridin-4-yl)imidazo[1,2-a]pyridin-3-yl)pyridin-3-yl)dimethylaminosulfonamide | 180 mg | ClC1=NC=C(C=C1NS(=O)(=O)N(C)C)C1=CN=C2N1C=C(C=C2)C2=CC=NC=C2 | C19H17ClN6O2S
